US07138425B2
e) 2-[3-(4-Methylbenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-propylaminophenyl)-4-methylbenzoxazole (112 mg, 0.4 mmol) and 1,2,4-benzenetricarboxylic anhydride (96 mg, 0.5 mmol) the title compound was obtained (110 mg, 60%). 1H NMR (DMSO) δ 8.46(t, 1H), 8.41(dd, 1H), 8.03(s, 1H), 8.06(m, 2H), 7.61(m, 2H), 7.44(dd, 1H), 7.22(d, 1H), 7.00(d, 1H), 3.34(m, 2H), 2.44(s, 3H), 1.74(m, 2H), 1.06(t, 3H). MS 453.9 m/z (M−H)−.

reactant | 2-(3-amino-6-propylaminophenyl)-4-methylbenzoxazole | 0.4 mmol, 112 mg | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C(=CC=C2)C | C17H19N3O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.5 mmol, 96 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(4-Methylbenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | CC1=CC=CC2=C1N=C(O2)C=2C=C(C=CC2NCCC)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C26H21N3O5
